US06503905B1
To a solution of 4-[1-benzyl-3-(3-hydroxy-phenyl)-piperidin-3-yl]-N,N-diethyl-benzamide (0.92 g, 2.08 mmol) in CH2Cl2 (15 ml) at 0° C. was added pyridine (0.25 mL, 3.12 mmol) followed by dropwise addition of triflic anhydride (0.52 mL, 3.61 mmol) over 5 minutes. The reaction mixture was stirred at 0° C. for 1 hour and at room temperature for 2 hours. The solution was then cooled to 0° C. and 15 mL of cold saturated aqueous NaHCO3 were added. The organic layer was separated and the aqueous layer was washed with CH2Cl2 (3×20 mL). The combined organic layers were dried (MgSO4) and concentrated. The crude residue was purified by flash chromatography with hexanes/EtOAc (4:1) to afford 0.50 g of trifluoro methanesulfonic acid 3-[1-benzyl-3-(4-diethylcarbamoyl-phenyl)-piperidin-3-yl]-phenyl ester. 1HNMR (400 MHz, CDCl3) δ 7.39-7.18 (comp, 12H), 7.04-6.99 (m, 1H), 3.60-3.39 (comp, 4H), 3.35-3.28 (comp, 2H), 3.06-2.87 (m, 1H), 2.68-2.44 (comp, 2H), 2.38-2.25 (m, 1H), 2.23-1.96 (comp, 2H), 1.64-1.39 (comp, 2H), 1.25-1.11 (comp, 3H), 1.10-0.99 (comp, 3H); MS (M+1) 575.2.

reactant | 4-[1-benzyl-3-(3-hydroxy-phenyl)-piperidin-3-yl]-N,N-diethyl-benzamide | 2.08 mmol, 0.92 g | C(C1=CC=CC=C1)N1CC(CCC1)(C1=CC(=CC=C1)O)C1=CC=C(C(=O)N(CC)CC)C=C1 | C29H34N2O2
reactant | pyridine | 3.12 mmol, 0.25 mL | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 3.61 mmol, 0.52 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | trifluoro methanesulfonic acid 3-[1-benzyl-3-(4-diethylcarbamoyl-phenyl)-piperidin-3-yl]-phenyl ester | 0.50 g | C(C1=CC=CC=C1)N1CC(CCC1)(C1=CC=C(C=C1)C(N(CC)CC)=O)C=1C=C(C=CC1)OS(=O)(=O)C(F)(F)F | C30H33F3N2O4S
